US05556864
120(a) (S)-1-t-Butoxycarbonyl-3-{2-[2-(3-methoxyphenyl) ethyl]phenoxymethyl}piperidine
0.295 g of a 50% w/w dispersion of sodium hydride in mineral oil was added to a solution of 1.55 g of 2-[2-(3-methoxyphenyl)ethyl]phenol (prepared as described in Preparation 21) in 60 ml of dimethylacetamide, whilst ice-cooling and stirring, and the mixture was stirred at the same temperature for 15 minutes. 2.50 g of (S)-1-t-butoxycarbonyl-3-(p-toluenesulfonyloxymethyl)piperidine were then added to the mixture, whilst ice-cooling, and the mixture was stirred at the same temperature for 30 minutes and then at room temperature for 6 hours. At the end of this time, 250 ml of ethyl acetate and 150 ml of water were added to the reaction mixture, and the ethyl acetate layer was separated. The aqueous layer was extracted with 50 ml of ethyl acetate once, and the ethyl acetate layer and the extract were combined, washed with a saturated aqueous solution of sodium chloride twice, dried over anhydrous magnesium sulfate and concentrated by distillation under reduced pressure. The concentrate was purified by column chromatography through silica gel, using a 5:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 2.78 g (yield 96%) of the title compound as a colorless oil.

reactant | sodium hydride | [H-].[Na+]
reactant | 2-[2-(3-methoxyphenyl)ethyl]phenol | 1.55 g | COC=1C=C(C=CC1)CCC1=C(C=CC=C1)O | C15H16O2
reactant | (S)-1-t-butoxycarbonyl-3-(p-toluenesulfonyloxymethyl)piperidine | 2.50 g | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)COS(=O)(=O)C1=CC=C(C=C1)C | C18H27NO5S
reactant | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylacetamide | 60 ml | CC(=O)N(C)C | C4H9NO
solvent | water | 150 ml | O | H2O
product | (S)-1-t-Butoxycarbonyl-3-{2-[2-(3-methoxyphenyl) ethyl]phenoxymethyl}piperidine | 2.78 g, yield 96% | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)COC1=C(C=CC=C1)CCC1=CC(=CC=C1)OC | C26H35NO4
